US04638000
In 50 ml of ethanol is dissolved 6.8 g of 2-bromo-9-phthalimidononanoic acid, and 5 ml of conc. sulfuric acid is added to the solution. After the solution is left standing overnight, the solution is diluted with 100 ml of water and extracted with 200 ml of ethyl acetate. The ethyl acetate layer is washed with 50 ml of aqueous sodium bicarbonate solution and 50 ml of water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily substance is purified by silicagel column chromatography (hexane:ethyl acetate=6:1) to give 6.3 g of ethyl 2-bromo-9-phthalimidononanoate as a colorless oil.

reactant | 2-bromo-9-phthalimidononanoic acid | 6.8 g | BrC(C(=O)O)CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C17H20BrNO4
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | ethyl 2-bromo-9-phthalimidononanoate | 6.3 g | BrC(C(=O)OCC)CCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H24BrNO4
